US07193092B2
(Diethylamino)-bis(2,4-dimethylphenyl)phosphine (B46):
A solution of 2.92 ml (21.61 mmol) of 4-bromo-1,3-dimethylbenzene in 3 ml of Et2O were added at 0° C. to a suspension of 0.5 g (20.56 mmol) of magnesium turnings in 7 ml of THF and 7 ml of Et2O and also a crystal of iodine. The mixture was heated to room temperature, stirred further overnight and slowly added dropwise at 0° C. to a solution of 1.5 ml (10.31 mmol) of Et2NPCl2 in 8 ml of THF. The mixture was heated to 5–10° C., stirred for a further 2 hours and the solvent was subsequently removed under reduced pressure. After adding 60 ml of hexane, the mixture was filtered through Celite under argon and the solvent was subsequently removed under reduced pressure. Yield: 1.37 g (59% of theory). 1H NMR (400 MHz, CDCl3) δ, 6.9 (m, 6H), 3.03 (m, 4H, CH2), 2.20 (s, 12H, CH3), 0.81 (t, 3J=7.0 Hz, 6H, CH3) 31P NMR (161.9 MHz, CDCl3) δ, 47.8.

reactant | 4-bromo-1,3-dimethylbenzene | 21.61 mmol, 2.92 ml | BrC1=C(C=C(C=C1)C)C | C8H9Br
reactant | magnesium | 20.56 mmol, 0.5 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | Et2NPCl2 | 10.31 mmol, 1.5 ml | N(CC)(CC)P(Cl)Cl | C4H10Cl2NP
solvent | Et2O | 3 ml | CCOCC | C4H10O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | Et2O | 7 ml | CCOCC | C4H10O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (Diethylamino)-bis(2,4-dimethylphenyl)phosphine | C(C)N(CC)P(C1=C(C=C(C=C1)C)C)C1=C(C=C(C=C1)C)C | C20H28NP
